US08034812B2
Production of 3-amino-4-fluorophenol
To a solution of 2-chloro-4-fluoro-5-nitrophenol (3.20 g, 16.7 mmol) in methanol (60 mL) was added 20 wt % palladium hydroxide on carbon (1.60 g) under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 8 hr under hydrogen atmosphere. After nitrogen replacement, triethylamine (2.32 mL, 16.7 mmol) was added to the reaction mixture, and the mixture was filtered through a kiriyama funnel. Saturated brine was added to the filtrate, and the mixture was extracted twice with diethyl ether. The extract was dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was recrystallized from diethyl ether/hexane to give the title compound (1.40 g, 66%) as pale-brown crystals.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 16.7 mmol, 3.20 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | triethylamine | 16.7 mmol, 2.32 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 1.60 g | [OH-].[OH-].[Pd+2]
product | 3-amino-4-fluorophenol | 1.40 g, 66% | NC=1C=C(C=CC1F)O | C6H6FNO
